Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2][C:7]([H:6])([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.86472390604
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[C:9]([H:10])[H:11],0.57877081563
[H:1][C:2]#[C:11][C:9]([C:6]([C:4](=[C:3][H:12])[H:5])([H:7])[H:8])[H:10]>>[H:1][C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]1[H:12],-1.34883147368
[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9]>>[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.172874838169999
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13].[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14],0.283742591933
[H:3].[O:1]=[C:2][O:4][C:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],-4.40617370383
[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.00735694657
[O:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C:8]1([H:9])[H:10]>>[O:1][O:2][C:3][C:8]([C:4]=[C:5]([H:6])[H:7])([H:9])[H:10],2.74576903723
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][O:11][H:12].[H:9],2.38918023066
[H:13].[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.56043403723
[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8].[H:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-2.35545228588
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:4],1.45546429401
[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])#[C:7][H:8].[O:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[H:12],0.37603316602
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.625380422769999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1],3.71878255035
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],7.36834078253
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],5.42655443653
[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10])=[O:11]>>[H:1][C:2]1[O:3][C:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[O:11]1,1.8436403493
[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],-3.941088893380001
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],2.30429385608
[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.29935864131
[C:2]=[O:10].[O:1](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[H:11]>>[O:1]=[C:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],1.8828493442200005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:4],4.67992220941
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.37451294583
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12]1>>[H:1][C:2](=[O:3])[O:12][C:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11],0.51124475502
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4],-0.3492729686509999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13],4.0914658303500016
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.55443298809
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([O:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C@:8]([O:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.10318315971
